US04008272
192 g (1mole) of 3,4-dichloro-nitrobenzene is added to 810 cm3 (10 moles) ethylene diamine hydrate. The reaction mixture is heated at reflux for 4 hours and then poured into 2.5 liters of ice water. Drying yields 205 g of 4-nitro-2-chloro-N-(β-aminoethyl) aniline which, after recrystallization in absolute ethanol, melts at 116° C.

reactant | 3,4-dichloro-nitrobenzene | 1mole, 192 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | ethylene diamine hydrate | 10 moles, 810 cm3 | O.C(CN)N
product | 4-nitro-2-chloro-N-(β-aminoethyl) aniline | 205 g | [N+](=O)([O-])C1=CC(=C(NCCN)C=C1)Cl | C8H10ClN3O2
